US05672753
Production of (RS)-2-amino-4-phenyl-1-butanol ((RS)-homophenyl alaninol)
33.2 g (0.15 mole) 2-hydroxyimino-4-phenyl butyric acid ethyl ester were steadily introduced under agitation into a suspension of 24.15 g (0.64 mole) sodium boron hydride in 200 ml 1,2-dimethoxyethane (DME). Within 1 h a solution of 17.2 ml (0.32 mole) conc. sulfuric acid in 60 ml DME was added dropwise thereto, during which the temperature was maintained at 20°-30° C. The mixture was subsequently heated slowly to 62° C., then agitated 5 h at this temperature and cooled overnight under agitation to room temperature. After a careful addition of 50 ml methanol the batch was evaporated to dryness, the residue taken up in 120 ml water and compounded with 25 ml conc. hydrochloric acid, during which a vigorous development of gas began. After the addition of 150 ml toluene the mixture was agitated until the end of the development of gas, then alkalinized with 35 ml 50% sodium hydroxide solution and heated to 60° C. The organic phase was separated and the aqueous phase extracted again with 80 ml toluene at this temperature. The combined organic phases were dried over sodium sulfate and evaporated. 25.0 g raw (RS)-2-amino-4-phenyl-1-butanol remained as residue in the form of a brownish, viscous oil. The structure was corroborated by a 1H-NMR spectrum.

reactant | 2-hydroxyimino-4-phenyl butyric acid ethyl ester | 0.15 mole, 33.2 g | C(C)OC(C(CCC1=CC=CC=C1)=NO)=O | C12H15NO3
reactant | sodium boron hydride | 0.64 mole, 24.15 g | B.[Na]
reactant | sulfuric acid | 0.32 mole, 17.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
solvent | DME | 60 ml | COCCOC | C4H10O2
product | (RS)-2-amino-4-phenyl-1-butanol | NC(CO)CCC1=CC=CC=C1 | C10H15NO
